* Z:\mnt\design.r\spice\examples\1024A.asc
V1 +V 0 15
V2 -V 0 -15
R1 N003 N001 10K
R2 N001 0 100K
V3 IN- IN+ SINE(0 1m 100)
R3 N002 N003 10K
R4 N002 N001 2.2K
R5 OUT N002 100K
V4 IN+ 0 SINE(0 1 10)
XU1 IN- N001 +V -V N003 LT1012
XU2 IN+ N002 +V -V OUT LT1012
.tran 1
* Two Op Amp Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
